### ISSUE TITLE
False positive from the unusedHavesSuffices linter

### ISSUE THREAD

**Issue by semorrison** [leanprover/std4#428]
```
import Std

/---/
def npowRec {M : Type} [Mul M] (one : M) : Nat → M → M
  | 0, _ => one
  | n + 1, a => a * npowRec one n a

/---/
@[nolint unusedArguments]
abbrev npowRec' {M : Type} [Mul M] (one : M) (_mul_one : ∀ m : M, m * one = m) (_one_mul : ∀ m : M, one * m = m) (k : Nat) (m : M) : M :=
  npowRec one k m

@[nolint unusedArguments]
theorem npowRec'_two_mul {M : Type} [Mul M] (one : M)
    (mul_one : ∀ m : M, m * one = m) (one_mul : ∀ m : M, one * m = m) (k : Nat) (m : M) :
    npowRec' one mul_one one_mul (2 * k) m = npowRec' one mul_one one_mul k (m * m) := sorry

/---/
@[nolint unusedArguments]
def npowBinRec {M : Type} [Mul M] (one : M) (_unused : one * one = one) (_unused' : one * one = one) (k : Nat) (m : M) : M :=
  go k one m
where
  /-- Auxiliary tail-recursive implementation for `npowBinRec`-/
  go : Nat → M → M → M
  | 0, y, _ => y
  | (k + 1), y, x =>
    let k' := (k + 1) >>> 1
    if k &&& 1 = 1 then
      have : k' < k + 1 := Nat.div_lt_self (Nat.zero_lt_succ _) (Nat.lt_succ_self _)
      go k' y (x * x)
    else
      have : k' < k + 1 := Nat.div_lt_self (Nat.zero_lt_succ _) (Nat.lt_succ_self _)
      go k' (y * x) (x * x)
  termination_by go k _ _ => k

theorem npowBinRec.go_spec {M : Type} [Mul M] (one : M) (mul_one : ∀ m : M, m * one = m) (one_mul : ∀ m : M, one * m = m) (k : Nat) (x y : M) :
    npowBinRec.go k y x = y * npowRec' one mul_one one_mul k x := by
  induction k using Nat.strongInductionOn generalizing x y with
  | ind k' ih =>
    cases k' with
    | zero => sorry
    | succ k' =>
      rw [go]
      sorry

#lint
```
Somehow when we `rw [go]`, the `unusedHavesSuffices` linter can see the `have` statements from inside the `go`, and doesn't like them. This is from https://github.com/leanprover-community/mathlib4/pull/8885

**Comment by semorrison** [comment]
There is a suggested workaround at https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.236582/near/385294834

**Comment by kmill** [comment]
For anyone like me passing through, wondering what the linter is seeing, the issue is that once `rw [go]` applies, the body of the definition `go` is part of the proof term because the type is captured by the `sorry` term. Similarly, if you do `dsimp` first before `sorry`, while it does erase the offending `let_fun` statements, the `let_fun`s are still captured in an `id` term that `dsimp` produces.

I might be inclined to say that this should be upgraded to a core issue. Maybe equation lemmas should erase unused `let_fun`s?

**Comment by digama0** [comment]
> I might be inclined to say that this should be upgraded to a core issue. Maybe equation lemmas should erase unused let_funs?

Yes please! The problem is that the type of the equation lemma itself violates the linter, although it may or may not have actually been generated in the given file, and theorems that use the lemma will also end up violating the linter because the type of the equation lemma shows up in various places during rewriting.

**Comment by semorrison** [comment]
Upgrading to a core issue would require further minimizing the example. If anyone has the time and inclination to do so, that would be much appreciated. Either posting a smaller example here, or just directly opening a new issue on core would work!

**Comment by llllvvuu** [comment]
After bumping to 2024-06-11 nightly, the following smaller example will trigger the issue:

```lean
import Batteries.Tactic.Lint.Misc
import Batteries.Tactic.Lint.Frontend

def Nat.log (b : Nat) : Nat → Nat
  | n =>
    if h : b ≤ n ∧ 1 < b then
      have : n / b < n := div_lt_self (by omega) (by omega)
      log b (n / b) + 1
    else 0

#print Nat.log
#print Nat.log.eq_1

theorem Nat.log_eq_zero_iff {b n : Nat} : log b n = log b n := by
  rw [log]

#lint only unusedHavesSuffices
```
